US05859032
3-(4-geranyloxybenzoylamino)pyridine
Sodium hydride(0.74 g) and 3-aminopyridine(0.87 g) were stirred in tetrahydrofuran(30 ml) for 1 hour while being cooled with ice. 4-geranyloxybenzoic acid(2.54 g) and N,N'-carbonyldiimidazole(1.65 g) was stirred in tetrahydrofuran(10 ml) for 30 minutes at room temperature and the mixture was added to the former reaction mixture. After being stirred for 20 minutes at room temperature, the reaction mixture was concentrated under a vacuum. The residue, with water added thereto, was extracted with ethyl acetate. The extract was dried over sodium sulfate anhydride and then concentrated under a vacuum. The residue was purified by silica gel column chromatography (chloroform:methanol=20:1). The resulting solid was recrystallized from n-hexane/ethyl acetate, thereby yielding 1.05 g of the aimed compound.

reactant | Sodium hydride | 0.74 g | [H-].[Na+]
reactant | 3-aminopyridine | 0.87 g | NC=1C=NC=CC1 | C5H6N2
reactant | 4-geranyloxybenzoic acid | 2.54 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)O)C=C1 | C17H22O3
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(4-geranyloxybenzoylamino)pyridine | 1.05 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)NC=2C=NC=CC2)C=C1 | C22H26N2O2
